US09376449B2
To a mixture of tert-butyl (6-bromo-2,3-dihydro-1-benzofuran-5-yl)carbamate (2.75 g) and dioxane (15.0 mL) was added hydrogen chloride (4 M dioxane solution, 15.0 mL), followed by stirring at room temperature overnight. The solvent was evaporated under reduced pressure to obtain 6-bromo-2,3-dihydro-1-benzofuran-5-amine hydrochloride (2.23 g) as a pale yellow solid.

reactant | tert-butyl (6-bromo-2,3-dihydro-1-benzofuran-5-yl)carbamate | 2.75 g | BrC1=CC2=C(CCO2)C=C1NC(OC(C)(C)C)=O | C13H16BrNO3
reactant | hydrogen chloride | 4 M, 15.0 mL | Cl | ClH
solvent | dioxane | 15.0 mL | O1CCOCC1 | C4H8O2
product | 6-bromo-2,3-dihydro-1-benzofuran-5-amine hydrochloride | 2.23 g | Cl.BrC1=CC2=C(CCO2)C=C1N | InChI=1S/C8H8BrNO.ClH/c9-6-4-8-5(1-2-11-8)3-7(6)10;/h3-4H,1-2,10H2;1H
